US07968571B2
To a solution of N-(4-formyl-6-{methyl[(2-methylcyclopropyl)methyl]amino}pyridin-2-yl)-N-methylmethanesulfonamide (435 mg, 1.40 mmol) in acetonitrile (5 mL) was added 5 drops water, trimethylsulfonium iodide (342 mg, 1.68 mmol) and potassium hydroxide (188 mg, 3.35 mmol). The reaction was stirred at 65° C., sealed, for 3 h, diluted with EtOAc, washed with sat'd aq NaHCO3, brine, dried over sodium sulfate, and concentrated in vacuo to provide N-methyl-N-(6-{methyl[(2-methylcyclopropyl)methyl]amino}-4-oxiran-2-ylpyridin-2-yl)methanesulfonamide, used as is in the next step. A solution of N-methyl-N-(6-{methyl[(2-methylcyclopropyl)methyl]amino}-4-oxiran-2-ylpyridin-2-yl)methanesulfonamide (440 mg, 1.35 mmol) in EtOH (10 mL) and NH4OH (15 mL) was stirred at 60° C., sealed, for 16 h, concentrated in vacuo and purified by flash chromatography (silica, 5-15% (10% NOH/MeOH)/CH2Cl2) to provide N-(4-(2-amino-1-hydroxyethyl)-6-{methyl[(2-methylcyclopropyl)methyl]amino}pyridin-2-yl)-N-methylmethanesulfonamide as a thick oil. 1H NMR (400 MHz, CD3OD) δ 6.52 (s, 1H), 6.47 (s, 1H), 4.58 (X′ of A′B′X′, dd, J=7.6, 4.0 Hz, 2H), 3.54 (A of ABX, dd, J=14.4, 6.4 Hz, 1H), 3.35 (B of ABX, dd, J=14.4, 6.8 Hz, 1H), 3.30 (s, 3H), 3.13 (s, 3H), 3.08 (s, 3H), 3.86 (A′ of A′B′X′, dd, J=13.2, 4.0 Hz, 1H), 2.76 (B′ of A′B′X′, dd, J=13.2, 7.6 Hz, 1H), 1.02 (d, J=6.0 Hz, 3H), 0.80-0.65 (m, 2H), 0.46-0.39 (m, 1H), 0.25-0.18 (m, 1H).

reactant | N-methyl-N-(6-{methyl[(2-methylcyclopropyl)methyl]amino}-4-oxiran-2-ylpyridin-2-yl)methanesulfonamide | 1.35 mmol, 440 mg | CN(S(=O)(=O)C)C1=NC(=CC(=C1)C1OC1)N(CC1C(C1)C)C | C15H23N3O3S
reactant | NH4OH | 15 mL | [NH4+].[OH-]
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-(4-(2-amino-1-hydroxyethyl)-6-{methyl[(2-methylcyclopropyl)methyl]amino}pyridin-2-yl)-N-methylmethanesulfonamide | NCC(O)C1=CC(=NC(=C1)N(CC1C(C1)C)C)N(S(=O)(=O)C)C | C15H26N4O3S
